US05475001
Using an analogous procedure to that described in Example 4, 7-fluoro-6-methylamino-4-(3'-methylanilino)quinazoline was reacted with 2-chloroacetyl chloride to give 6-(2-chloro-N-methylacetamido)-7-fluoro-4-(3'-methylanilino)quinazoline hydrochloride (0.097 g);

reactant | 7-fluoro-6-methylamino-4-(3'-methylanilino)quinazoline | FC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)NC | C16H15FN4
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 6-(2-chloro-N-methylacetamido)-7-fluoro-4-(3'-methylanilino)quinazoline hydrochloride | 0.097 g | Cl.ClCC(=O)N(C)C=1C=C2C(=NC=NC2=CC1F)NC1=CC(=CC=C1)C | InChI=1S/C18H16ClFN4O.ClH/c1-11-4-3-5-12(6-11)23-18-13-7-16(24(2)17(25)9-19)14(20)8-15(13)21-10-22-18;/h3-8,10H,9H2,1-2H3,(H,21,22,23);1H
